US03962224
Dimethyl N-benzylidene-aminomethylphosphonate (22.72 g) is dissolved in anhydrous tetrahydrofuran (500 ml) under nitrogen. The solution is cooled to -78°, and phenyllithium (45 ml of a 2.3 M solution in benzene-ether) is added with stirring. The solution is stirred an additional 15 minutes at -78°. and then treated dropwise over 45 minutes with p-methoxybenzyl chloroformate (10.03 g) in tetrahydrofuran (100 ml). After stirring for 2 hours at -78°, the reaction mixture is allowed to warm to 0° over 30 minutes. The solvent is evaporated in vacuo and the residue is partitioned between ether (500 ml) and 0.5 M pH 3 phosphate buffer (100 ml). The ether portion is washed with water and saturated brine, dried over magnesium sulfate, filtered, and evaporated in vacuo to dryness. Chromatography of the residue on silica gel affords p-methoxybenzyl N-benzylidene-α-amino-dimethylphosphonoacetate.

reactant | Dimethyl N-benzylidene-aminomethylphosphonate | 22.72 g | C(C1=CC=CC=C1)=NCP(OC)(OC)=O | C10H14NO3P
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | p-methoxybenzyl chloroformate | 10.03 g | ClC(=O)OCC1=CC=C(C=C1)OC | C9H9ClO3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | p-methoxybenzyl N-benzylidene-α-amino-dimethylphosphonoacetate | C(C1=CC=CC=C1)=NC(C(=O)OCC1=CC=C(C=C1)OC)P(=O)(OC)OC | C19H22NO6P
